US07713994B2
6-Bromo-4-[(4-piperidin-1-ylmethyl-phenylamino)methylene]-4H-isoquinoline-1,3-dione
6-Bromo-4-methoxymethylene-4H-isoquinoline-1,3-dione (100 mg, 0.350 mmol) and 4-piperidin-1-ylmethyl-phenylamine (67 mg, 0.35 mmol) are suspended in 5 ml of dimethylformamide. Mixture is heated at 115° C. for 2 hours forming a homogeneous mixture. Mixture is cooled to room temperature and concentrated on high vacuum to yield an orange oil. Residue is taken up in ethyl ether causing an orange solid to form. Mixture is filtered, and residue washed with 50 ml of ethyl ether to afford the product as an orange solid (130 mg, 0.296 mmol, 85%); 1H NMR (DMSO-d6) δ 1.37-1.52 (m, 6H), 2.25-2.36 (m, 4H), 3.40 (s, 2H), 7.31 (d, J=8.4 Hz, 2H), 7.39 (dd, J=1.6, 8.4 Hz, 1H), 7.52 (d, J=8.5 Hz, 2H), 7.89 (d, J=8.4 Hz, 1H), 8.44 (d, J=1.6 Hz, 1H), 8.92 (d, J=12.8 Hz, 1H), 11.39 (s, 1H), 12.50 (d, J=12.7 Hz, 1H).

reactant | 6-Bromo-4-methoxymethylene-4H-isoquinoline-1,3-dione | 0.350 mmol, 100 mg | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C11H8BrNO3
reactant | 4-piperidin-1-ylmethyl-phenylamine | 0.35 mmol, 67 mg | N1(CCCCC1)CC1=CC=C(C=C1)N | C12H18N2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl ether | C(C)OCC | C4H10O
product | 6-Bromo-4-[(4-piperidin-1-ylmethyl-phenylamino)methylene]-4H-isoquinoline-1,3-dione | 0.296 mmol, 130 mg, 85% | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=CNC1=CC=C(C=C1)CN1CCCCC1 | C22H22BrN3O2
